* Z:\home\anagix\work\YSS_PMOS\diff_amp\LevelShifter-test14umS.asc
M6 N004 N002 N001 N001 YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
I2 N004 0 220µ
M2 N005 N004 N002 N001 YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M3 Vout- +IN N005 N001 YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
R1 Vout- N007 30k
V1 +IN -IN SINE(0 30mv 4k) AC 1
V2 0 N007 5
R2 Vout+ N007 30k
M4 N002 N002 N001 N001 YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M1 Vout+ -IN N005 N001 YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M10 N003 N002 N001 N001 YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M11 VoutLS+ N004 N003 N001 YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M12 N007 Vout+ VoutLS+ N001 YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
V4 N001 0 5
R7 -IN 0 1
R8 0 +IN 1
M5 N006 N004 N002 N001 YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M7 Vout2- +IN N006 N001 YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
R3 Vout2- N007 15k
R4 Vout2+ N007 15k
M8 N002 N002 N001 N001 YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M9 Vout2+ -IN N006 N001 YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
R5 VoutLS2+ Vout2+ 20k
R6 N001 VoutLS2+ 50k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V1 -1 1
.lib ../../parameter2/mineda2020_1_pmos(Aug18).txt
;op
;ac oct 10 1 1G
* 2-Volt level shifters are needed between diff stages.
;tran 0 1m 0
* Two LS circuits are compared:\n(1) Resistive LS: Gain reduction due to resistive divider.\n(2) Source-follower LS: Causes additional distortion due to substrate modulation effect.
.backanno
.end
