* Z:\home\anagix\work\YSS_PMOS\diff_amp\currentsource_test14um.tmp
V1 0 N003 5
M1 Vout N002 N001 N001 YSS_PMOS l=14u w=14u
V2 N001 0 5
I1 N002 N003 200µ
M2 N002 N002 N001 N001 YSS_PMOS l=14u w=14u
V3 Vout 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V3 -5 5
.lib ../parameter2/mineda2020_1_pmos.txt
;.op
.backanno
.end
