* Z:\home\anagix\work\YSS_PMOS\diff_amp\currentsource_test14umWilson.asc
V1 0 N008 5
M1 N003 N003 N001 N001 YSS_PMOS l=14u w=14u m=20
V2 N001 0 5
I1 N006 N008 200µ
M2 N005 N003 N001 N001 YSS_PMOS l=14u w=14u m=20
V3 Vout 0 5
M3 N006 N006 N005 N001 YSS_PMOS l=14u w=14u m=40
M4 Vout N006 N003 N001 YSS_PMOS l=14u w=14u m=40
V4 0 N009 5
M5 N004 N004 N002 N002 YSS_PMOS l=14u w=14u m=30
V5 N002 0 5
I2 N007 N009 200µ
M6 N007 N004 N002 N002 YSS_PMOS l=14u w=14u m=30
M8 Vout2 N007 N004 N002 YSS_PMOS l=14u w=14u m=40
E1 Vout2 0 Vout 0 1.0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V3 -5 5 20m
.lib ../parameter2/mineda2020_1_pmos.txt
;.op
* Willson Current Mirror (Improved version)
* Willson Current Mirror (Simpler version)
.backanno
.end
