* Z:\home\anagix\work\YSS_PMOS\diff_amp\currentsource_test14umcascode.asc
V1 0 N005 5
M1 N003 N002 N001 N001 YSS_PMOS l=14u w=14u m=20
V2 N001 0 5
I1 N004 N005 200µ
M2 N002 N002 N001 N001 YSS_PMOS l=14u w=14u m=20
V3 Vout 0 5
M3 N004 N004 N002 N001 YSS_PMOS l=14u w=14u m=20
M4 Vout N004 N003 N001 YSS_PMOS l=14u w=14u m=20
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V3 -5.0 5.0
.lib ../parameter2/mineda2020_1_pmos.txt
;.op
.backanno
.end
