* Z:\home\anagix\work\YSS_PMOS\diff_amp\diffamp_test10umrealCS-Vcm-gain.asc
V1 0 N008 5
M1 N003 N002 N001 N001 YSS_PMOS l=14u w=14u m=20
V2 N001 0 5
I1 N004 N008 200µ
M2 N002 N002 N001 N001 YSS_PMOS l=14u w=14u m=20
V3 N006 N007 5
M3 N004 N004 N002 N001 YSS_PMOS l=14u w=14u m=20
M4 Vs N004 N003 N001 YSS_PMOS l=14u w=14u m=20
M5 OUT- N006 Vs N001 YSS_PMOS l=10u w=10u m=10
M6 OUT+ N007 Vs N001 YSS_PMOS l=10u w=10u m=10
R1 OUT- N008 40k
R2 OUT+ N008 40k
R3 N006 N005 1
R4 N005 N007 1
Vicm N005 0 2.7
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V3 -5.0 5.0
.lib ../parameter2/mineda2020_1_pmos.txt
;.op
.backanno
.end
