* Z:\home\anagix\work\YSS_PMOS\diff_amp\mmm-CMoutSensitivity.asc
Iref Iref 0 208µ
Vin-diff N005 N002 SINE(0 100m 1k)
V2 0 -VSS 5 AC 1
R5 -OUT 0 10k
R6 +OUT 0 10k
V4 +VDD 0 5
R7 N001 N002 1
R8 N001 N005 1
C1 -OUT 0 50p
C2 +OUT 0 50p
Vin-cm N001 0 0
R9 +OUT -IN 100k
R10 -IN N002 100k
R11 +IN N005 100k
R12 -OUT +IN 100k
C3 N003 N004 1p
XX1 +IN -IN -OUT +OUT +VDD -VSS N004 N003 Iref diffamp

* block symbol definitions
.subckt diffamp +IN -IN -OUT +OUT +VDD -VSS C1 C2 Iref
M6 Iref N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M2 N007 Iref N001 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M3 N011 +IN N007 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
R1 N011 -VSS 30k
R2 N012 -VSS 30k
R3 C1 -VSS 30k
R4 C2 -VSS 30k
M4 N001 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M5 N004 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M7 N008 Iref N004 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M8 C1 N010 N008 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M1 N012 -IN N007 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M9 C2 N009 N008 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M10 N002 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M11 N010 Iref N002 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M12 -VSS N011 N010 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M13 -VSS N012 N009 +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u
M14 N003 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u
M15 N009 Iref N003 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u
M16 N005 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u m=4
M17 +OUT Iref N005 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u m=4
M18 -VSS C1 +OUT +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u m=4
M19 -VSS C2 -OUT +VDD YSS_PMOS l=10u w=200u ad=2.0n as=2.0n pd=220u ps=220u m=4
M20 N006 N001 +VDD +VDD YSS_PMOS l=14u w=280u ad=3.92n as=3.92n pd=308u ps=308u m=4
M21 -OUT Iref N006 +VDD YSS_PMOS l=14u w=84u ad=1.176n as=1.176n pd=112u ps=112u m=4
C9 C2 C1 50p
.lib ../../parameter2/mineda2020_1_pmos(Aug18).txt
.ends diffamp

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc Iref 200u 220u
.lib ../../parameter2/mineda2020_1_pmos(Aug18).txt
;op
;ac oct 40 1 1G
;tran 0 10m 0
* Sensitivity of output common-mode voltage to Iref, i.e, dVcm/dIref@Iref=210uA is simulated to be\ndVcm/dIref=13.4 [mV/uA]. This may be too sensitive. For exampe, Vcm changes from 0mV\nto 100mV for Iref change from 208uA to 215uA.
.backanno
.end
